US07214694B2
Preparation 12: tert-butyl(3R)-6-cyclohexyl-3-(3-{[(phenylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method as for preparation 6 using tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (205 mg, 0.58 mmol) and benzenesulphonylchloride (75 μl, 0.58 mmol) as starting materials.

reactant | tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.58 mmol, 205 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | benzenesulphonylchloride | 0.58 mmol, 75 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | tert-butyl(3R)-6-cyclohexyl-3-(3-{[(phenylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNS(=O)(=O)C1=CC=CC=C1 | C25H37N3O5S
